US04666906
To a stirred suspension containing 58.1 mmol of methylhydrazine and 8.04 gm (58.2 mmol) of potassium carbonate in 60 ml of N,N-dimethylformamide at 0° C. is added dropwise over 1 hour 9.59 ml (59.4 mmol) of t-butyl bromoacetate. After stirring for 1 hour at room temperature the reaction mixture is poured into 500 ml of water and extracted three times with ethyl acetate. The combined organic portions are dried over magnesium sulfate, filtered, and concentrated in vacuo. The product is chromatographed to afford N-(t-butylcarboxymethyl)-N'-methyl-hydrazine, which is reacted with an equimolar amount of 4-chloro-3-sulfamoylbenzoyl chloride to yield 1-t-butylcarboxymethyl-2-methyl-2-(4-chloro-3-sulfamoylbenzoyl)hydrazine (VII-B).

reactant | methylhydrazine | 58.1 mmol | CNN | CH6N2
reactant | potassium carbonate | 58.2 mmol, 8.04 gm | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl bromoacetate | 59.4 mmol, 9.59 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | 500 ml | O | H2O
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | N-(t-butylcarboxymethyl)-N'-methyl-hydrazine | C(C)(C)(C)C(NNC)C(=O)O | C7H16N2O2
